US05763489
A N,N-dimethylformamide solution (15 ml) of crude 2-[2-(5-hydroxy-1,2,3,4-tetrahydro-1-naphthyl)ethyl]-6-diphenylmethyl-3(2H)-pyridazinone (0.34 g), potassium carbonate (0.16 g) and ethyl bromoacetate (0.2 ml) was stirred at room temperature for 24 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water and brine, dried over sodium sulfate, and evaporated in vacuo. The residue was chromatographed (n-hexane-ethyl acetate=3:2) over silica gel to afford 2-[2-(5-ethoxycarbonylmethoxy-1,2,3,4-tetrahydro-1-naphthyl)ethyl]-6-diphenylmethyl-3(2H)-pyridazinone (0.17 g) as a pale yellow oil.

reactant | 2-[2-(5-hydroxy-1,2,3,4-tetrahydro-1-naphthyl)ethyl]-6-diphenylmethyl-3(2H)-pyridazinone | 0.34 g | OC1=C2CCCC(C2=CC=C1)CCN1N=C(C=CC1=O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C29H28N2O2
reactant | potassium carbonate | 0.16 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 0.2 ml | BrCC(=O)OCC | C4H7BrO2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-[2-(5-ethoxycarbonylmethoxy-1,2,3,4-tetrahydro-1-naphthyl)ethyl]-6-diphenylmethyl-3(2H)-pyridazinone | 0.17 g | C(C)OC(=O)COC1=C2CCCC(C2=CC=C1)CCN1N=C(C=CC1=O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C33H34N2O4
